US07511033B2
3′-[7-(2-Fluoro-phenyl)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-biphenyl-3-sulfonic acid amide
) The title compound was prepared from the above described 3′-[7-(2-fluoro-phenyl)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-biphenyl-3-sulfonic acid tert-butylamide (430 mg, 0.795 mmol) and TFA (5 mL) according to the general procedure I step 2. Obtained as a white solid (380 mg, 99%). MS (ISP) 486.0 [(M+H)+]; mp 230-232° C.

reactant | 3′-[7-(2-fluoro-phenyl)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-biphenyl-3-sulfonic acid tert-butylamide | 0.795 mmol, 430 mg | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)C=1CC(NC2=C(N1)C=CC(=C2)C2=C(C=CC=C2)F)=O | C31H28FN3O3S
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3′-[7-(2-Fluoro-phenyl)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-biphenyl-3-sulfonic acid amide | FC1=C(C=CC=C1)C1=CC2=C(N=C(CC(N2)=O)C=2C=C(C=CC2)C2=CC(=CC=C2)S(=O)(=O)N)C=C1 | C27H20FN3O3S
